US07863271B2
To a solution of (2S)-4-benzyl-2-isopropylpiperazine (363 mg, 1.66 mmol) in 1,2-dimethoxyethane (10 mL) at room temperature, was added NaH (80 mg, 1.66 mmol, 60% suspension in mineral oil) and the mixture was stirred for 1 h. Methyl 2-chlorobenzoxazole-4-carboxylate (351 mg, 1.66 mmol) was added to the reaction mixture and the reaction was stirred at room temperature for 17 h. The reaction mixture was quenched with CH3OH (10 mL), silica gel (15 mL) was added, and solvent removed under reduced pressure. The mixture was purified by column chromatography (silica gel, 0 to 100% EtOAc in hexanes) to afford (S)-methyl 2-(4-benzyl-2-isopropylpiperazin-1-yl)benzoxazole-4-carboxylate (355 mg, 54%) as a pale yellow oil. MS consistent.

reactant | (2S)-4-benzyl-2-isopropylpiperazine | 1.66 mmol, 363 mg | C(C1=CC=CC=C1)N1C[C@@H](NCC1)C(C)C | C14H22N2
reactant | NaH | 1.66 mmol, 80 mg | [H-].[Na+]
reactant | Methyl 2-chlorobenzoxazole-4-carboxylate | 1.66 mmol, 351 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | (S)-methyl 2-(4-benzyl-2-isopropylpiperazin-1-yl)benzoxazole-4-carboxylate | 355 mg, 54% | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC)C(C)C | C23H27N3O3
